* 36V to 5V sync buck (M2 replaces D1), 100W
* D=139m, Rload=250m; dead time ~5% each end
Vin in 0 36
M1 in gate sw 0 NMOS W=1 L=1
M2 sw gate2 0 0 NMOS W=1 L=1
L1 sw out 100u
C1 out 0 220u
Rload out 0 250m
Rbleed sw 0 1Meg
Vgate  gate  0 PULSE(0 12 0 1n 1n 1.39u 10u)
Vgate2 gate2 0 PULSE(0 12 1.89u 1n 1n 7.91u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.tran 1n 5m
.probe V(*) I(*)
.end
